US07745475B2
3-{4-[(Dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a solution of 3-{4-[(dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (500 mg, 1.0 mmol) in acetonitrile (30 mL) was added iodotrimethylsilane (0.73 mL, 1.0 g, 5.1 mmol) dropwise. The resulting mixture was stirred at RT for 20 hours. Aqueous sodium hydrogen carbonate solution (saturated, 5 mL) was added slowly and the resulting mixture was concentrated under reduced pressure. Water (50 mL) was added and the mixture was extracted with ethyl acetate (50 mL). The organic layers was washed with brine (50 mL), dried (MgSO4) and evaporated to afford the crude product. This was purified by flash chromatography (eluting with an increasing gradient of 60 to 100% ethyl acetate in isohexane) to afford the pure title compound (216 mg, 45%).

reactant | 3-{4-[(dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.0 mmol, 500 mg | CN(S(=O)(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC)C)C=C1)C | C23H28N4O6S
reactant | iodotrimethylsilane | 5.1 mmol, 0.73 mL, 1.0 g | I[Si](C)(C)C | C3H9ISi
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-{4-[(Dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 216 mg, 45% | CN(S(=O)(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](CO)C)C=C1)C | C22H26N4O6S
